US06528525B1
(f) Ethyl 3-[4-(2-azidoethoxy)phenyl]-2-butyl-2-methylpropionate
In a similar manner to that described in Reference example 3(h), a reaction was carried out using ethyl 2-butyl-3-[4-(2-methanesulfonyloxyethoxy)phenyl]-2-methylpropionate (3.17 g), which is the product of Reference example 10(e), and sodium azide (1.60 g) and the reaction mixture was treated to afford the desired compound (2.80 g) as a syrup.

reactant | ethyl 2-butyl-3-[4-(2-methanesulfonyloxyethoxy)phenyl]-2-methylpropionate | 3.17 g | C(CCC)C(C(=O)OCC)(CC1=CC=C(C=C1)OCCOS(=O)(=O)C)C | C19H30O6S
reactant | sodium azide | 1.60 g | [N-]=[N+]=[N-].[Na+]
product | Ethyl 3-[4-(2-azidoethoxy)phenyl]-2-butyl-2-methylpropionate | 2.80 g | N(=[N+]=[N-])CCOC1=CC=C(C=C1)CC(C(=O)OCC)(C)CCCC | C18H27N3O3
